US08604029B2
Cyclopentanecarboxylic acid (10.0 g, 87.7 mmol) was heated under reflux with thionyl chloride (13 mL, 176 mmol). After 2 hrs the thionyl chloride was distilled under reduced pressure to give the crude acid chloride (9.8 g, 74.2 mmol) as a liquid. In another vessel, 50% sodium hydride (4.28 g, 89.09 mmol) was taken up in THF (100 mL) and diethyl malonate (11.88 g, 74.24 mmol) was added dropwise at 0° C. Into this mixture the previously-prepared acid chloride (9.8 g, 74.2 mmol) was added dropwise at 0° C. and the reaction mixture was stirred at r.t. for an hour. The reaction was quenched with cold water and extracted with ethyl acetate. The combined organic layer was washed with water, sodium bicarbonate solution, brine solution, dried over sodium sulfate, filtered and concentrated to afford 2-cyclopentanecarbonyl malonic acid diethyl ester (19.2 g, 85.5%) as a liquid.

reactant | Cyclopentanecarboxylic acid | 87.7 mmol, 10.0 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | thionyl chloride | 176 mmol, 13 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydride | 89.09 mmol, 4.28 g | [H-].[Na+]
reactant | diethyl malonate | 74.24 mmol, 11.88 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-cyclopentanecarbonyl malonic acid diethyl ester | 19.2 g, 85.5% | C(C)OC(C(C(=O)OCC)C(=O)C1CCCC1)=O | C13H20O5
